US08404709B2
4-(5-Ethoxy-2-methyl-3-nitro-1,4-dihydro-1,6-naphthyridin-4-yl)-3-methoxybenzonitrile
40 mg (0.11 mmol) of 3-methoxy-4-(2-methyl-3-nitro-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)benzonitrile and 43 mg of triethyloxonium tetrafluoroborate (0.23 mmol) are mixed under a dry argon atmosphere. After addition of dichloromethane (5 ml), the suspension is stirred until a solution is obtained, then mixed with methanol and concentrated. The residue is purified by preparative HPLC to result in 13 mg (29% of theory) of the title compound as a white solid.

reactant | 3-methoxy-4-(2-methyl-3-nitro-5-oxo-1,4,5,6-tetrahydro-1,6-naphthyridin-4-yl)benzonitrile | 0.11 mmol, 40 mg | COC=1C=C(C#N)C=CC1C1C(=C(NC=2C=CNC(C12)=O)C)[N+](=O)[O-] | C17H14N4O4
reactant | triethyloxonium tetrafluoroborate | 0.23 mmol, 43 mg | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 4-(5-Ethoxy-2-methyl-3-nitro-1,4-dihydro-1,6-naphthyridin-4-yl)-3-methoxybenzonitrile | C(C)OC1=C2C(C(=C(NC2=CC=N1)C)[N+](=O)[O-])C1=C(C=C(C#N)C=C1)OC | C19H18N4O4
